US07872031B2
To a solution of 2-fluoropyridine-3-carboxylic acid (1.41 g, 10.00 mmol) in anhydrous DMF (15 mL) was added HOBT (2.56 g, 16.74 mmol) and Et3N (2.0 g, 20.09 mmol) at RT. The mixture was cooled to 0° C., treated with a solution of N4-(2,3-difluorophenyl)pyridine-3,4-diamine in DMF (15 mL), stirred for 15 min at RT and EDC (3.2 g, 16.74 mmol) was added portion wise. The reaction mixture was warmed to RT and stirred for 16 hr. The reaction mixture was diluted with water (100 mL) and extracted with EtOAc (4×200 mL). The combined organics were washed with saturated aq. NaHCO3 solution (2×100 mL), water (2×100 mL), brine solution (100 mL), and dried (Na2SO4). Filtration and evaporation of the solvent in vacuo gave a brown solid. Chromatographic purification (silica gel, 1% methanol in chloroform) provided N-(4-(2,3-difluorophenylamino)pyridin-3-yl)-2-fluoropyridine-3-carboxamide (1.05 g, 45% yield) as yellow solid; LC-MS: 345.2 (M+H).

reactant | 2-fluoropyridine-3-carboxylic acid | 10.00 mmol, 1.41 g | FC1=NC=CC=C1C(=O)O | C6H4FNO2
reactant | HOBT | 16.74 mmol, 2.56 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 20.09 mmol, 2.0 g | CCN(CC)CC | C6H15N
reactant | N4-(2,3-difluorophenyl)pyridine-3,4-diamine | FC1=C(C=CC=C1F)NC1=C(C=NC=C1)N | C11H9F2N3
reactant | EDC | 16.74 mmol, 3.2 g
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | N-(4-(2,3-difluorophenylamino)pyridin-3-yl)-2-fluoropyridine-3-carboxamide | 1.05 g, 45% yield | FC1=C(C=CC=C1F)NC1=C(C=NC=C1)NC(=O)C=1C(=NC=CC1)F | C17H11F3N4O
